US07151155B2
Preparation of 75/25 Caprolactone/1,3-dioxepane Copolymer
The formulation used for the copolymer is given in Table 2 below. The copolymer was prepared according to the method of Example 1, except that the weight ratio of caprolactone to 1,3-dioxepane was 3 and the reaction temperature was 50° C. The carbodiimide used was Stabaxol P. After removal of the unreacted 1,3-dioxepane, the copolymer was heated to 60° C. and filtered through cheese cloth to remove agglomerated particles resulting from silica gel in the Stabaxol P.

reactant | caprolactone | C1(CCCCCO1)=O | C6H10O2
reactant | 1,3-dioxepane | O1COCCCC1 | C5H10O2
reactant | carbodiimide | N=C=N | CH2N2
product | Caprolactone 1,3-dioxepane | C1(CCCCCO1)=O.O1COCCCC1 | InChI=1S/C6H10O2.C5H10O2/c7-6-4-2-1-3-5-8-6;1-2-4-7-5-6-3-1/h1-5H2;1-5H2
